US06057316
(R)-2-[4-(2,3-Dimethyl-1-oxa-9-thia-cyclopenta[b]fluoren-4-yl)-2,6-diiodo-phenoxy]-3-phenyl-propionic acid
Prepared from 4-(2,3-dimethyl-1-oxa-9-thia-cyclopenta[b]fluoren-4-yl)-2,6-diiodo-phenol and (S)-2-hydroxy-3-phenylpropionic acid, methyl ester according to the procedure in Example 8 to provide the title compound as a white solid: mp 215-217: NMR (DMSO-d6): δ8.17 (s, 1H), 7.94 (d, J=8 Hz, 1H), 7.85 (d, J=4 Hz, 2H), 7.39-7.30 (m, 5H), 7.22 (dd, J=7 Hz, 1H), 7.16 (dd, J=7, 1 Hz, 1H), 6.87 (d, J=8 Hz, 1H), 5.41 (s, 1H), 3.43 (dd, J=6, 1 Hz, 2H), 2.36 (s, 3H), 1.56 (s, 3H); MS (+FAB): [M+H]+, 745; Anal. Calc. for C31H22I2O4S: C, 50.02, H, 2.98, N, 0.00. Found: C,47.59, H, 2.98, N, 0.13.

reactant | 4-(2,3-dimethyl-1-oxa-9-thia-cyclopenta[b]fluoren-4-yl)-2,6-diiodo-phenol | CC1=C(C=2C(=CC=3SC4=CC=CC=C4C3C2C2=CC(=C(C(=C2)I)O)I)O1)C | C22H14I2O2S
reactant | (S)-2-hydroxy-3-phenylpropionic acid, methyl ester | O[C@H](C(=O)OC)CC1=CC=CC=C1 | C10H12O3
product | (R)-2-[4-(2,3-Dimethyl-1-oxa-9-thia-cyclopenta[b]fluoren-4-yl)-2,6-diiodo-phenoxy]-3-phenyl-propionic acid | CC1=C(C=2C(=CC=3SC4=CC=CC=C4C3C2C2=CC(=C(O[C@@H](C(=O)O)CC3=CC=CC=C3)C(=C2)I)I)O1)C | C31H22I2O4S
